US08865713B2
Step C: 2,4-Dichloro-1H-benzoimidazole.
Phosphorus oxychloride (10 mL) was added to 4-chloro-1,3-dihydro-benzoimidazol-2-one (0.750 g, 4.45 mmol), and the mixture heated to 80° C. for 48 h. The mixture was cooled to 23° C. and POCl3 removed under reduced pressure. The residue was cooled to 0° C., and cold saturated aqueous NaHCO3 (20 mL) was added cautiously. After stirring at 23° C. for 15 min, the mixture was sonicated and the resulting residue was filtered to yield the titled compound (0.760 g, 92%), which was used in the next step without further purification. MS (ESI/CI): mass calcd. for C7H5Cl2N2, 186.0; m/z found, 187.0 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 13.68 (s, 1H), 7.51-7.42 (m, 1H), 7.32-7.25 (m, 1H), 7.22 (m, 1H).

reactant | 4-chloro-1,3-dihydro-benzoimidazol-2-one | 4.45 mmol, 0.750 g | ClC1=CC=CC=2NC(NC21)=O | C7H5ClN2O
reactant | Phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,4-Dichloro-1H-benzoimidazole | 0.760 g, 92% | ClC1=NC2=C(N1)C=CC=C2Cl | C7H4Cl2N2
